US04055561
Following essentially the same procedure described in Example IV above and substituting ρ-cyclohexyl-α-methylbenzylamine hydrochloride for the α-methyl-ρ-phenyethylbenzylamine hydrochloride above, results in the formation of 2-(ρ-cyclohexyl-α-methylbenzylimino)hexahydroazepine hydrochloride having a M.P. of 245°-7° C.

reactant | ρ-cyclohexyl-α-methylbenzylamine hydrochloride | Cl.C1(CCCCC1)C1=CC=C(C(C)N)C=C1
reactant | α-methyl-ρ-phenyethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-(ρ-cyclohexyl-α-methylbenzylimino)hexahydroazepine hydrochloride | Cl.C1(CCCCC1)C1=CC=C(C(C)N=C2NCCCCC2)C=C1 | InChI=1S/C20H30N2.ClH/c1-16(22-20-10-6-3-7-15-21-20)17-11-13-19(14-12-17)18-8-4-2-5-9-18;/h11-14,16,18H,2-10,15H2,1H3,(H,21,22);1H
